US05006511
E. 5-Fluoromethyl-1-Methyl-2-Pyrrolidinone
5-Hydroxymethyl-1-methyl-2-pyrrolidinone (see step 2 of Example 1B) and trifluoromethanesulfonic anhydride are reacted in CH2Cl2 and pyridine at 0° C. to give the trifluoromethylsulfonate ester, which is treated with TBAF in THF solution to give the title compound.

reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | C1CCOC1 | C4H8O
product | 5-Fluoromethyl-1-Methyl-2-Pyrrolidinone | FCC1CCC(N1C)=O | C6H10FNO
